US06258829B1
Methyl 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
After suspending 10% palladium-carbon (600.0 mg) in methanol (15.0 ml), the suspension was stirred at room temperature for 30 minutes in an atmosphere of hydrogen. A methanol solution (30.0 ml) of methyl 2-chloro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (3.00 g, 12.5 mmol) was added to the reaction solution and stirred at room temperature for 18 hours in an atmosphere of hydrogen. After removing the catalyst by filtration, the thus obtained residue was washed with methanol, the solvent was evaporated under reduced pressure and then the resulting residue was purified by a silica gel column chromatography (ether:hexane=1:1) to obtain the title compound (2.57 g, quantitative) as white powder

reactant | hydrogen | [H][H] | H2
reactant | methyl 2-chloro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 12.5 mmol, 3.00 g | ClC1=C(C=C2C(=N1)CCCCC2)C(=O)OC | C12H14ClNO2
solvent | methanol | 15.0 ml | CO | CH4O
catalyst | palladium-carbon | 600.0 mg | [C].[Pd]
solvent | methanol | 30.0 ml | CO | CH4O
product | Methyl 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 2.57 g | N1=C2C(=CC(=C1)C(=O)OC)CCCCC2 | C12H15NO2
